US06455550B1
To the 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-phenylalanine on Wang resin prepared above (12.1 mmol, 17.4 g) was added 20% of piperidine in NMP at room temperature. The mixture was shaken for 1.5 h at room temperature and the resin was filtered and washed with DMF (2×20 mL). Then, the resin was suspended in 20% piperidine in NMP (100 mL) and the solvent was decanted. The resin was washed with dichloromethane (2×20 mL) and dried under high vacuum to obtain 13.5 g of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine on Wang resin.

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-phenylalanine | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)C(=O)O)C=C1 | C31H24Cl2N2O5
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine | 13.5 g | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C16H14Cl2N2O3
